US04123537
To a vigorously-stirred slurry of phosphorus pentoxide (163.8 g., 1.15 mole) in chloroform (600 ml.) maintained under a nitrogen atmosphere is added slowly a solution of ethyl N-pivaloylglycinate (107.8 g., 0.576 mole) in chloroform (350 ml.). Upon completing the addition, the reaction mixture is stirred and heated at reflux under a nitrogen atmosphere for 14 hours. The cooled reaction mixture is treated with 20% sodium hydroxide (800 ml.), vigorously stirred for 1/2 hour and allowed to separate into two phases. After discarding the aqueous phase, the organic phase is washed with water and saturated brine, dried over sodium sulfate and filtered. Distillation of the filtrate provides 2-(1,1-dimethylethyl)-5-ethoxyoxazole as a pale yellow liquid (64 g., 66%), b.p. 58°-64° C./0.7 mm.

reactant | phosphorus pentoxide | 1.15 mole, 163.8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | ethyl N-pivaloylglycinate | 0.576 mole, 107.8 g | C(C(C)(C)C)(=O)NCC(=O)OCC | C9H17NO3
reactant | sodium hydroxide | 800 ml | [OH-].[Na+]
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 350 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(1,1-dimethylethyl)-5-ethoxyoxazole | CC(C)(C)C=1OC(=CN1)OCC | C9H15NO2
